* C:\Users\Vicente\OneDrive\Documentos\U\2021-1\ASTRONOMIA EXPERIMENTAL\tareas_astro_exp\astro_experimental\Tarea 3\circuitos\asc\circuito1.asc
V1 N001 0 V
D1 N001 N002 1N914
R1 N002 0 1k
.model D D
.lib C:\Users\Vicente\OneDrive\Documentos\LTspiceXVII\lib\cmp\standard.dio
.dc V1 0 1.5 0.1
.backanno
.end
